US07829588B2
Step a: Methyl 2-heptyloxy-4-iodobenzoate
A mixture of methyl 2-hydroxy-4-iodobenzoate (25 g, 90 mmol), caesium carbonate (35.2 g, 108 mmol) and n-heptyl iodide (19.2 ml, 117 mmol), in 500 ml of dimethylformamide (DMF) is stirred for 10 hours at room temperature. The solution is neutralized by addition of 2N hydrochloric acid solution. The desired product is extracted by addition of ethyl acetate. The organic phase is washed with water, dried with magnesium sulfate and concentrated using a rotary evaporator. After evaporation of the solvent, 33.84 g (100%) of the expected compound are recovered in the form of a brown oil.

reactant | methyl 2-hydroxy-4-iodobenzoate | 90 mmol, 25 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
reactant | caesium carbonate | 108 mmol, 35.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | n-heptyl iodide | 117 mmol, 19.2 ml | C(CCCCCC)I | C7H15I
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | Methyl 2-heptyloxy-4-iodobenzoate | C(CCCCCC)OC1=C(C(=O)OC)C=CC(=C1)I | C15H21IO3
